US08466114B2
To a solution of trifluoroacetic acid (50 ml) and 2-isopropylbenzaldehyde (2.0 g, 13.5 mmol) was added conc. sulphuric acid (98%) (10 ml) at room temperature, followed by N-bromosuccinamide (NBS, 3.6 g 20.2 mmol) in portions. After 2 hrs, the mixture was poured into ice water and extracted with dichloromethane (3×30 mL). The organic layers were combined and neutralized with saturated aqueous sodium bicarbonate, washed with brine (30 mL), dried over sodium sulfate and concentrated. The resulting residue was purified by column chromatography to furnish 5-bromo-2-isopropylbenzaldehyde (1.80 g).

reactant | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-isopropylbenzaldehyde | 13.5 mmol, 2.0 g | C(C)(C)C1=C(C=O)C=CC=C1 | C10H12O
reactant | N-bromosuccinamide | 20.2 mmol, 3.6 g | BrNC(CCC(=O)N)=O | C4H7BrN2O2
solvent | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 5-bromo-2-isopropylbenzaldehyde | 1.80 g | BrC=1C=CC(=C(C=O)C1)C(C)C | C10H11BrO
